US05795907
a. 3,5-di-t-butyloxycarbonyl-nitrobenzene
5-Nitroisophthalic acid (4.22 g, 20 mmol) was suspended in dichloromethane (80 ml) and concentrated sulphuric acid (1 ml) was added. The solution was stirred and then saturated with isobutylene gas. The reaction vessel was stoppered and stirred at room temperature overnight. The solution was filtered and anhydrous potassium carbonate was added to the filtrate the solution was filtered and evsaporated and the residue recrystallised from ethanol to leave the title compound as a white solid (2.2 g).

reactant | 5-Nitroisophthalic acid | 20 mmol, 4.22 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3,5-di-t-butyloxycarbonyl-nitrobenzene | 2.2 g | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H21NO6
